### PR TITLE
[Merged by Bors] - feat (NormedSpace.Dual): make `Dual` reducible 

### PR DESCRIPTION
**Pull request by mattrobball**
Following `LinearAlgebra.Dual` this makes `NormedSpace.Dual` reducible. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: docs/undergrad.yaml [hunk 1]
```diff
@@ -434,7 +434,7 @@ Topology:
   Hilbert spaces:
     Hilbert projection theorem: 'exists_norm_eq_iInf_of_complete_convex'
     orthogonal projection onto closed vector subspaces: 'orthogonalProjection'
-    dual space: 'NormedSpace.instNormedSpaceDualToNormedFieldInstSeminormedAddCommGroupDual'
+    dual space: 'ContinuousLinearMap.toNormedSpace'
```
Comment (eric-wieser) [inline docs/undergrad.yaml:437]:
```suggestion
    dual space: 'NormedSpace.Dual'
```
seems more useful here

File: Mathlib/Analysis/InnerProductSpace/Dual.lean [hunk 2]
```diff
@@ -174,7 +174,8 @@ variable (B : E →L⋆[𝕜] E →L[𝕜] 𝕜)
 
 @[simp]
 theorem continuousLinearMapOfBilin_apply (v w : E) : ⟪B♯ v, w⟫ = B v w := by
-  simp [continuousLinearMapOfBilin]
+  rw [continuousLinearMapOfBilin, coe_comp', ContinuousLinearEquiv.coe_coe,
+  LinearIsometryEquiv.coe_toContinuousLinearEquiv, Function.comp_apply, toDual_symm_apply]
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Dual.lean:178]:
```suggestion
    LinearIsometryEquiv.coe_toContinuousLinearEquiv, Function.comp_apply, toDual_symm_apply]
```

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/Dual.lean:178]: This is just `rfl` though, right?

File: Mathlib/Analysis/NormedSpace/Dual.lean [hunk 3]
```diff
@@ -53,35 +53,15 @@ variable (E : Type*) [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
...
 /-- The topological dual of a seminormed space `E`. -/
-def Dual :=
+abbrev Dual :=
   E →L[𝕜] 𝕜
 #align normed_space.dual NormedSpace.Dual
 
--- Porting note: added manually
-section DerivedInstances
+-- Note: helper below
+instance : NormedSpace 𝕜 (Dual 𝕜 E) := inferInstance
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Dual.lean:61]: Does something below timeout if this is absent? If so, can you make it clear that this "helper" is to resolve a performance problem?

File: Mathlib/Analysis/NormedSpace/Dual.lean [hunk 4]
```diff
@@ -53,35 +53,15 @@ variable (E : Type*) [SeminormedAddCommGroup E] [NormedSpace 𝕜 E]
 variable (F : Type*) [NormedAddCommGroup F] [NormedSpace 𝕜 F]
 
 /-- The topological dual of a seminormed space `E`. -/
-def Dual :=
+abbrev Dual :=
   E →L[𝕜] 𝕜
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Dual.lean:57]:
```suggestion
abbrev Dual : Type _ := E →L[𝕜] 𝕜
```

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/Analysis/InnerProductSpace/Dual.lean (hunk 2 above)
Comment (PatrickMassot) [reply Mathlib/Analysis/InnerProductSpace/Dual.lean:178]: No, `toDual_symm_apply` is far from rfl.

File: Mathlib/Analysis/NormedSpace/Dual.lean (hunk 3 above)
Comment (PatrickMassot) [reply Mathlib/Analysis/NormedSpace/Dual.lean:61]: It fails on line 77:
```
failed to synthesize instance
  Norm (Dual 𝕜 E →L[𝕜] Dual 𝕜 E)
```

File: Mathlib/Analysis/NormedSpace/Dual.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Dual.lean:57]: It's a stylistic change for the reader: lean doesn't care.

It's meant to make it clear that we're defining a type; but more generally, the convention in mathlib is to pretty much always write the full type to help the reader. For example, we prefer to write `def choose (m n : ℕ) : ℕ := sorry` instead of `def choose (m n : ℕ) := sorry`. This is just another case of the same thing.

File: Mathlib/Analysis/NormedSpace/Dual.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Dual.lean:61]: With a failure or a timeout? (I can't open lean right now)

Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/Dual.lean:61]: It failed quickly. I didn't check further.

File: docs/undergrad.yaml (hunk 1 above)
Comment (mattrobball) [reply docs/undergrad.yaml:437]: At first I was confused about whether we wanted the construction of the dual as type or a proof that the dual of a Hilbert space is a Hilbert space. 

But I guess the original was neither of these things?

File: Mathlib/Analysis/InnerProductSpace/Dual.lean (hunk 2 above)
Comment (mattrobball) [reply Mathlib/Analysis/InnerProductSpace/Dual.lean:178]: Fixed the spacing

File: Mathlib/Analysis/NormedSpace/Dual.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/Dual.lean]: I added the signature.

File: Mathlib/Analysis/NormedSpace/Dual.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Dual.lean:60]: That line can be fixed with:
```lean
theorem inclusionInDoubleDual_norm_eq :
    (by exact ‖inclusionInDoubleDual 𝕜 E‖) = ‖ContinuousLinearMap.id 𝕜 (Dual 𝕜 E)‖ :=
  ContinuousLinearMap.op_norm_flip _
```
This feels like a bug to me.

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Dual.lean:60]: The next failure in the file is even worse:
```
--ok
#check ContinuousLinearMap.norm_id_le (𝕜 := 𝕜) (E := Dual 𝕜 E)

theorem inclusionInDoubleDual_norm_le : ‖inclusionInDoubleDual 𝕜 E‖ ≤ 1 := by
  rw [inclusionInDoubleDual_norm_eq]
  -- fails
  have := ContinuousLinearMap.norm_id_le (𝕜 := 𝕜) (E := Dual 𝕜 E)
  exact this
```

File: docs/undergrad.yaml (hunk 1 above)
Comment (PatrickMassot) [reply docs/undergrad.yaml:437]: I think the original thing probably meant the dual of a Hilbert space as a Hilbert space, so that you can state the Riesz representation theorem as an isometry of Hilbert spaces.

**Comment by PatrickMassot** [comment]
@mattrobball could you add a TODO as discussed on Zulip?
bors d+

**Comment by eric-wieser** [comment]
I've started a discussion at https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Typeclass.20search.20is.20affected.20by.20other.20subexpressions/near/389833387, maybe just link to that thread instead of an issue.

**Comment by mattrobball** [comment]
Added with references to leanprover/lean4#2522.

**Comment by eric-wieser** [comment]
!bench

**Review by eric-wieser — APPROVED** [review]
bors d+

I think we should merge this even if performance is a little worse, but should maybe wait just in case it's really terrible.

File: docs/undergrad.yaml (hunk 1 above)
Comment (eric-wieser) [reply docs/undergrad.yaml:437]: @PatrickMassot, do you prefer `ContinuousLinearMap.toNormedSpace` or `NormedSpace.Dual` here?

**Comment by mattrobball** [comment]
That maxrss might mean we are trying to compile more declarations than before. Let me investigate before moving forward. Thanks for the thought to test the performance.

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
!bench

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 5]
```diff
@@ -68,7 +68,7 @@ variable [CompleteSpace E] [CompleteSpace G]
 /-- The adjoint, as a continuous conjugate-linear map. This is only meant as an auxiliary
 definition for the main definition `adjoint`, where this is bundled as a conjugate-linear isometric
 equivalence. -/
-def adjointAux : (E →L[𝕜] F) →L⋆[𝕜] F →L[𝕜] E :=
+noncomputable def adjointAux : (E →L[𝕜] F) →L⋆[𝕜] F →L[𝕜] E :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean:71]: Ideally we'd have a tracking issue for "we made X computable due to a maxrss issue"

Comment (mattrobball) [reply Mathlib/Analysis/InnerProductSpace/Adjoint.lean:71]: Where do we want it?

Comment (eric-wieser) [reply Mathlib/Analysis/InnerProductSpace/Adjoint.lean:71]: I think mathlib4 is fine, unless you want to open a Lean4 one. We can always link from the mathlib one to the lean one at a later date.

File: docs/undergrad.yaml (hunk 1 above)
Comment (PatrickMassot) [reply docs/undergrad.yaml:437]: I think `NormedSpace.Dual` is better. Again the intended would be a combination of a Inner product space and a complete space instance, but we don't have a single declaration that would fit.

File: Mathlib/Analysis/NormedSpace/Dual.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/Analysis/NormedSpace/Dual.lean]: Referenced leanprover/lean4#2522 in the file

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/Analysis/InnerProductSpace/Adjoint.lean:73]: #7103

**Comment by mattrobball** [comment]
bors merge
